Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Trauma:  pedestrian struck

small SAH
Grade 2 liver laceration
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
___ year old pedestrian who was struck by MVC. Presented to ___ 
and was found to have a small traumatic SAH on the right in the 
Slyvian fissure. His blood alcohol on arrival was 292. He was 
also found to have a liver laceration for which he is being 
managed on the acute care surgery service. 

 
Past Medical History:
elevated blood ETOH level upon admission
 
Social History:
___
Family History:
non-contributory
 
Physical Exam:
PHYSICAL EXAM: upon admission:  ___:

O: AVSS
Gen: WD/WN, comfortable, NAD.
HEENT: Pupils: reactive        EOMs
Extrem: Warm and well-perfused.
Neuro:
Mental status: Awake and alert, intermittently combative.
Intoxicated.
Orientation: Oriented to person, place (hosp), and date.
Language: Speech thickened.

Cranial Nerves:
I: Not tested
II: Pupils round and reactive to light, L pupil ___, R pupil 
2-1.
mm bilaterally. Visual fields are full to confrontation.
III, IV, VI: Extraocular movements intact bilaterally without
nystagmus.
V, VII: Facial strength and sensation intact and symmetric.
VIII: Hearing intact to voice.
IX, X: Palatal elevation symmetrical.
XI: Sternocleidomastoid and trapezius normal bilaterally.
XII: Tongue midline without fasciculations.

Motor: Normal bulk and tone bilaterally. No abnormal movements,
tremors. Strength full power ___ throughout. No pronator drift

Sensation: Intact to light touch.
Toes downgoing bilaterally

 
Pertinent Results:
___ 11:00AM BLOOD WBC-5.8 RBC-4.63 Hgb-13.9* Hct-41.7 
MCV-90 MCH-29.9 MCHC-33.2 RDW-13.5 Plt ___
___ 11:20PM BLOOD Hct-39.4*
___ 03:15AM BLOOD WBC-5.3 RBC-4.82 Hgb-14.7 Hct-43.6 MCV-91 
MCH-30.5 MCHC-33.7 RDW-13.8 Plt ___
___ 11:00AM BLOOD Plt ___
___ 07:26AM BLOOD ___ PTT-34.7 ___
___ 03:15AM BLOOD ___ 07:26AM BLOOD Glucose-62* UreaN-16 Creat-1.0 Na-142 
K-4.1 Cl-104 HCO3-22 AnGap-20
___ 03:15AM BLOOD UreaN-16 Creat-1.2
___ 07:26AM BLOOD Calcium-8.7 Phos-4.3 Mg-2.4
___ 03:15AM BLOOD ASA-NEG ___ Acetmnp-NEG 
Bnzodzp-NEG Barbitr-NEG Tricycl-NEG
___ 03:38AM BLOOD pO2-83* pCO2-41 pH-7.37 calTCO2-25 Base 
XS--1 Comment-GREEN
___ 03:38AM BLOOD freeCa-1.11*

___: chest x-ray:

No acute cardiopulmonary process.

___:  CT of the head:

Probable small subarachnoid hemorrhage in the right temporal 
lobe along the sylvian fissure. 

___:  cat scan of the chest:

.  Bilobed hypodensity at the junction of hepatic segments I, 
VI, and VII 
measuring 6.6 x 4.3 x 4.7 cm has features more suggestive of a 
hemangioma 
rather than laceration, though this is incompletely assessed on 
this 
single-phase study.  Benignity is supported by lack of adjacent 
capsular 
defect or subcapsular/perihepatic hematoma.  If there is any 
clinical 
suspicion for bleed, an MRI could be considered for more 
definitive diagnosis. 
2.  A hyperenhancing focus along the periphery of segment 
VII/VIII does not have an associated hematoma, likely a small 
perfusional shunt. 
3.  Markedly enlarged and heterogeneous left thyroid lobe 
warrants correlation with thyroid function tests and US 
evaluation for possible FNA. 

___:  right knee x-ray:

No fracture or dislocation. 
  
Mild degenerative changes within the lower lumbar spine and at 
the right knee.

___:  right femur:

 No fracture or dislocation.

___: right knee:

No fracture or dislocation. 
  
Mild degenerative changes within the lower lumbar spine and at 
the right knee.

___:  thyroid US:

 -Large dominant heterogenous nodule within the mid/ lower pole 
of left 
thyroid, approximately 7 cm, with small internal cystic 
elements. A 
nonemergent ultrasound-guided fine needle aspiration is 
recommended, when 
clinically appropriate. 

  

  

  

 
Brief Hospital Course:
___ Year old male with unknown PMHx presented s/p pedestrian 
struck and ETOH as trauma team activation. Evaluation for 
+change in MS and ___ pain. CT head showed right temporal lobe 
subarachnoid hemorrhage, FAST ultrasound was negative for free 
fluid, Patient was given Haldol for agitation and CT imaging and 
labs were obtained. CT a/p positive for grade II hepatic 
laceration. Neuro surgery consult obtained for SAH and patient 
admitted to TSICU for SAH and liver laceration. Patient remained 
unchanged and hemodynamically stable in the ED, ETOH labs +292, 
GCS 14. The patient was started in CIWA scale and given keppra 
prophylaxis with close neurological and blood pressure 
monitoring and serial hematocrits.  
the patient remained stable and there were signs of bleeding or 
neurological change. His mental status was clear and he showed 
no signs of alcohol withdrawal. Tertiary exam was negative for 
any additional injuries. The patient was transferred out of the 
TSICU to the floor in good condition. He was seen by ___ and OT 
and cleared for home without services. His diet was advanced and 
he was tolerating a regular diet without any difficulties. He 
was voiding adequate amounts of urine without difficulty. He was 
encouraged to mobilize out of bed and ambulate as tolerated, 
which she was able to do independently. His pain level was 
routinely assessed and well controlled at discharge with an oral 
regimen as needed. Neck CT revealed an incidental finding of an 
enlarged thyroid, so a thyroid US and a thyroid FNA was 
obtained. The patient was discharged on HD#3. The patient 
received discharge teaching and follow-up instructions with 
understanding verbalized and agreement with the discharge plan. 
He had follow-up with neurology and to see a surgeon to discuss 
a thyroidectomy as an outpatient. 
 
Medications on Admission:
Zyrtec
 
Discharge Medications:
1. Acetaminophen 1000 mg PO Q6H:PRN pain 
RX *acetaminophen 500 mg 2 tablet(s) by mouth every six (6) 
hours Disp #*30 Tablet Refills:*0
2. Docusate Sodium 100 mg PO BID 
RX *docusate sodium 100 mg 1 capsule(s) by mouth twice a day 
Disp #*20 Capsule Refills:*0
3. LeVETiracetam 500 mg PO BID 
RX *levetiracetam 500 mg 1 tablet(s) by mouth twice a day Disp 
#*24 Tablet Refills:*0
4. Multivitamins 1 TAB PO DAILY 
RX *multivitamin  1 tablet(s) by mouth once a day Disp #*30 
Tablet Refills:*0
5. OxycoDONE (Immediate Release)  5 mg PO Q4H:PRN pain 
RX *oxycodone 5 mg 1 tablet(s) by mouth every four (4) hours 
Disp #*20 Tablet Refills:*0
6. Outpatient Physical Therapy
Right Knee:
Functional mobility assessment and training, therex
(LAQs, seated knee flexion self-PROM), hardening/conditioning, 
pt education

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Trauma:  pedestrian struck

right temporal lobe SAH
grade 2 liver laceration

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted to the hospital after you were struck by a 
motor vehicle. You had a small bleed in your head and a small 
liver laceration.  You were monitored in the intensive care unit 
for your neurological status.  Your vital signs have been 
stable. You were evaluated by physical therapy and and 
occupational therapy and have been cleared for discharge home 
with outpatient physical therapy. 

*AVOID contact sports and/or any activity that may cause injury 
to your abdominal area for the next ___ weeks.
 
*If you suddenly become dizzy, lightheaded, feeling as if you 
are going to pass out go to the nearest Emergency Room as this 
could be a sign that you are having internal bleeding from your 
liver or spleen injury.
 
*AVOID any blood thinners such as Motrin, Naprosyn, Indocin, 
Aspirin, Coumadin or Plavix for at least ___ days unless 
otherwise instructed by the MD/NP/PA.

Call your doctor or nurse practitioner or return to the 
Emergency Department for any of the following:
*You experience new chest pain, pressure, squeezing or 
tightness.
*New or worsening cough, shortness of breath, or wheeze.
*If you are vomiting and cannot keep down fluids or your 
medications.
*You are getting dehydrated due to continued vomiting, diarrhea, 
or other reasons. Signs of dehydration include dry mouth, rapid 
heartbeat, or feeling dizzy or faint when standing.
*You see blood or dark/black material when you vomit or have a 
bowel movement.
*You experience burning when you urinate, have blood in your 
urine, or experience a discharge.
*Your pain in not improving within ___ hours or is not gone 
within 24 hours. Call or return immediately if your pain is 
getting worse or changes location or moving to your chest or 
back.
*You have shaking chills, or fever greater than 101.5 degrees 
Fahrenheit or 38 degrees Celsius.
*Any change in your symptoms, or any new symptoms that concern 
you.

Please resume all regular home medications, unless specifically 
advised not to take a particular medication. Also, please take 
any new medications as prescribed.

Please get plenty of rest, continue to ambulate several times 
per day, and drink adequate amounts of fluids. 
 
Followup Instructions:
___